US08871756B2
2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methyl-N-[2-(1H-tetrazol-5-yl)ethyl]quinolin-4-amine
A mixture of 3-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]amino}propanenitrile (100 mg, 0.25 mmol), sodium azide (48 mg, 0.98 mmol), dimethyl formamide (2 ml) and ammonium chloride (52.6 mg, 0.98 mmol) was heated at 80° C. in an oil bath overnight. The resulting mixture was diluted with water and extracted with dichloromethane (10 mL×3). The combined organic layers were washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography (eluting with 10% methanol in dichloromethane) to afford 20 mg of the desired product as a white solid. MS obsd. (ESI+) [(M+H)+] 450, 1H NMR (400 MHz, CD3OD) δ ppm 8.06 (m, 1 H), 7.92 (t, 1 H), 7.86 (s, 1 H), 7.60 (m, 1 H), 7.58-7.52 (m, 3 H), 5.89 (s, 1 H), 5.27 (s, 2 H), 4.52 (brs, 2 H), 3.86 (t, 2 H), 3.72 (t, 2 H), 3.33 (t, 2 H), 2.47 (s, 3 H).

reactant | 3-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]amino}propanenitrile | 0.25 mmol, 100 mg | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCCC#N)C)=O | C22H22N4O2S
reactant | sodium azide | 0.98 mmol, 48 mg | [N-]=[N+]=[N-].[Na+]
reactant | dimethyl formamide | 2 ml | CN(C=O)C | C3H7NO
reactant | ammonium chloride | 0.98 mmol, 52.6 mg | [Cl-].[NH4+]
solvent | water | O | H2O
product | 2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methyl-N-[2-(1H-tetrazol-5-yl)ethyl]quinolin-4-amine | 20 mg | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCCC2=NN=NN2)C)=O | C22H23N7O2S
